US05623049
N-Benzyl-N-(2-hydroxyethyl)-glycine tert-butyl ester (3)
tert-Butyl bromoacetate (32.3 ml; 0.2 mol) is slowly added dropwise, while cooling in ice, to a solution of N-benzylethanolamine (30.2 g; 0.2 mol) and triethylamine (27.9 ml; 0.2 mol) in anhydrous N,N-dimethylformamide (200 ml). The mixture is stirred at room temperature for 22 h and is then concentrated in vacuo. The residue is subsequently distilled repeatedly with toluene. The resulting oil is taken up in dichloromethane (400 ml) and extracted twice by shaking with water (160 ml on each occasion). The organic phase is dried (magnesium sulphate) and concentrated. Yield: 47.8 g (90%), colourless oil.

reactant | tert-Butyl bromoacetate | 0.2 mol, 32.3 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | N-benzylethanolamine | 0.2 mol, 30.2 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | triethylamine | 0.2 mol, 27.9 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-Benzyl-N-(2-hydroxyethyl)-glycine tert-butyl ester | C(C)(C)(C)OC(CN(CCO)CC1=CC=CC=C1)=O | C15H23NO3
